US07112553B1
A solution of methyl 5-benzotriazoleacetate (10 g, 0.0523 mol) in N,N-dimethylformamide was added dropwise to a chilled (ice-bath) suspension of sodium hydride (60% dispersion in oil, 2.3 g, 0.0575 mol) in N,N-dimethylformamide. When the addition was complete, the ice-bath was removed and the mixture stirred for 1 hour. N-Propyl iodide (9.78 g, 0.0575 mol) was added dropwise, and once the addition was complete the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured onto ice/water, and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated in vacuo. The residue was further purified by column chromatography to afford methyl (2-propylbenzotriazol-5-yl)acetate (4.8 g).

reactant | methyl 5-benzotriazoleacetate | 0.0523 mol, 10 g | N1=NN=C2C1=CC=C(C2)CC(=O)OC | C9H9N3O2
reactant | sodium hydride | 0.0575 mol, 2.3 g | [H-].[Na+]
reactant | N-Propyl iodide | 0.0575 mol, 9.78 g | CCCI | C3H7I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl (2-propylbenzotriazol-5-yl)acetate | 4.8 g | C(CC)N1N=C2C(=N1)C=CC(=C2)CC(=O)OC | C12H15N3O2
